US05498630
N-Ethyl-N-(1-methoxy-2,2-dimethylpropyl)-2-(trimethylsilyl)benzamide
A solution of 1.3M s-BuLi in cyclohexane (140.6 mL, 182.8 mmol) was added dropwise to a dry-ice/acetone cooled solution of N-ethyl-N-(1-methoxy-2,2-dimethylpropyl)benzamide (35 g, 140.6 mol) and TMEDA (25.44 mL, 168.6 mmol) in THF (280 mL), maintaining the internal reaction temperature ≤-60° C. The yellow solution was stirred at -78° C. for 1 h, then was cannulated into a dry-ice/acetone cooled solution of TMSCl (26.72 mL, 210.6 mmol) in THF (140 mL) at a rate which maintained the internal reaction temperature ≤-55° C. The resulting mixture was warmed to 0° C. and partitioned between ether and sat aq NaHCO3. The ether solution was dried (MgSO4), concentrated, and kugelrohr distilled under vacuum to give 44.8 g of the title compound as a pale yellow solid, a 99% yield. m.p. 76°-78° C.

reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 182.8 mmol, 140.6 mL | C1CCCCC1 | C6H12
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | N-ethyl-N-(1-methoxy-2,2-dimethylpropyl)benzamide | 140.6 mol, 35 g | C(C)N(C(C1=CC=CC=C1)=O)C(C(C)(C)C)OC | C15H23NO2
reactant | TMEDA | 168.6 mmol, 25.44 mL | CN(C)CCN(C)C | C6H16N2
reactant | TMSCl | 210.6 mmol, 26.72 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 280 mL | C1CCOC1 | C4H8O
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | N-Ethyl-N-(1-methoxy-2,2-dimethylpropyl)-2-(trimethylsilyl)benzamide | 44.8 g, 99% yield | C(C)N(C(C1=C(C=CC=C1)[Si](C)(C)C)=O)C(C(C)(C)C)OC | C18H31NO2Si
